US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(cyclohexylmethyl)-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and (bromomethyl)cyclohexane (0.030 mL, 0.215 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0172 g, 24.2%). EI-MS m/z 385 (M+) Rt (1.82 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | (bromomethyl)cyclohexane | 0.215 mmol, 0.030 mL | BrCC1CCCCC1 | C7H13Br
product | 4-[cyano(diphenyl)methyl]-1-(cyclohexylmethyl)-1-azoniabicyclo[2.2.1]heptane bromide | 0.0172 g, 24.2% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CC2CCCCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H33N2.BrH/c28-21-27(24-12-6-2-7-13-24,25-14-8-3-9-15-25)26-16-18-29(22-26,19-17-26)20-23-10-4-1-5-11-23;/h2-3,6-9,12-15,23H,1,4-5,10-11,16-20,22H2;1H/q+1;/p-1
